US07935688B2
(1) Synthesis of [1-(4-bromo-phenyl)-1-methyl-ethoxy]-trimethyl-silane
N-trimethylsilylimidazole (80.6 mL, 0.552 mol) was added to a solution of the crude 2-(4-bromo-phenyl)-propan-2-ol in tetrahydrofuran (500 mL) in a nitrogen atmosphere at room temperature, and the mixture was stirred at the same temperature overnight. The reaction mixture was poured into a saturated aqueous sodium bicarbonate solution, followed by extraction with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was distilled off under reduced pressure. The resulting residue was subjected to silica gel chromatography (n-hexane:ethyl acetate=40:1) to give the title compound as a colorless oil (125.6 g, 87% in two steps).

reactant | N-trimethylsilylimidazole | 0.552 mol, 80.6 mL | C[Si](N1C=NC=C1)(C)C | C6H12N2Si
reactant | 2-(4-bromo-phenyl)-propan-2-ol | BrC1=CC=C(C=C1)C(C)(C)O | C9H11BrO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | [1-(4-bromo-phenyl)-1-methyl-ethoxy]-trimethyl-silane | 125.6 g, 87% | BrC1=CC=C(C=C1)C(C)(O[Si](C)(C)C)C | C12H19BrOSi
